US06875781B2
4-[6-Amino-4-(5-chloro-2-ethoxy-phenyl)-pyridin-2-ylamino]-benzaldehyde
Following the method described in Example 8, 4-(5-chloro-2-ethoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt and 4-formyl-phenylboronic acid provided the title compound (22% yield). 1H NMR (acetone-d6) δ1.36 (t, 3H, J=6.9 Hz, CH3), 4.11 (q, 2H, J=7.0 Hz, CH2), 5.51 (bs, 2H, NH2), 6.33 (d, 1H, J=1.1 Hz, Ar), 6.44 (d, 1H, J=1.0 Hz, Ar), 7.12 (d, 1H, J=8.5 Hz, Ar), 7.31-7.37 (m, 2H, Ar), 7.78 (d, 2H, J=8.8 Hz, Ar), 7.88-7.97 (m, 2H, Ar), 8.57 (s, 1H, NH), 9.84 (s, 1H, CH).

reactant | 4-(5-chloro-2-ethoxy-phenyl)-pyridine-2,6-diamine trifluoroacetic acid salt | FC(C(=O)O)(F)F.ClC=1C=CC(=C(C1)C1=CC(=NC(=C1)N)N)OCC
reactant | 4-formyl-phenylboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
product | 4-[6-Amino-4-(5-chloro-2-ethoxy-phenyl)-pyridin-2-ylamino]-benzaldehyde | 22% yield | NC1=CC(=CC(=N1)NC1=CC=C(C=O)C=C1)C1=C(C=CC(=C1)Cl)OCC | C20H18ClN3O2
